US05475011
In 75 mL of anhydrous THF were added 17.29 mL (75 mmol) of hexamethyldisilazane and 30 mL (75 mmol) of N-butyllithium (2.5M in hexane) at 0° C. under nitrogen. After stirring for one hour, 7.65 mL (75 mmol) of benzaldehyde was added at room temperature, and the mixture was refluxed for 3 hours. Then, 9.52 mL (75 mmol) of freshly distilled trimethylsilyl chloride was added with a syringe. The mixture was refluxed for 2 hours. A white precipitate formed during this process. The reaction mixture was then cooled to room temperature and the liquid layer was transferred with a syringe to a distillation flask under nitrogen. The solvent was evaporated in vacuo, and the oily residue was distilled under reduced pressure (68° C./1 mm Hg) to give pure N-trimethylsilylbenzaldimine as a pale yellow oil (10.6 g, 80%) having the identification data shown below:

reactant | hexamethyldisilazane | 75 mmol, 17.29 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | N-butyllithium | 75 mmol, 2.5M, 30 mL | [Li+].CCC[CH2-]
reactant | benzaldehyde | 75 mmol, 7.65 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | N-trimethylsilylbenzaldimine | 10.6 g, 80% | C[Si](C)(C)N=CC1=CC=CC=C1 | C10H15NSi
